US08541455B2
A mixture of 1 g (3.59 mmol) of methyl 2-benzyl-4,4,4-trifluoro-3,3-dihydroxybutanoate, 1.05 g (3.59 mmol) of N-ethyl-6-hydrazino-N-phenylpyridine-3-sulfonamide and 1 g of 4 Å molecular sieves in 8 mL of MeOH is heated for 12 hours at 90° C. At room temperature, the reaction medium is taken up in 30 mL of toluene, and refluxed for 12 hours in Dean-Stark apparatus. The reaction medium is then filtered and concentrated under reduced pressure, and the residue obtained is then taken up in 50 mL of DCM, washed with 1N HCl solution (2×50 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. The solid thus obtained is recrystallized from EtOH. 224 mg of 6-(4-benzyl-5-oxo-3-trifluoromethyl-2,5-dihydro-1H-pyrazol-1-yl)-N-ethyl-N-phenylpyridine-3-sulfonamide are obtained in the form of white crystals.

reactant | methyl 2-benzyl-4,4,4-trifluoro-3,3-dihydroxybutanoate | 3.59 mmol, 1 g | C(C1=CC=CC=C1)C(C(=O)OC)C(C(F)(F)F)(O)O | C12H13F3O4
reactant | N-ethyl-6-hydrazino-N-phenylpyridine-3-sulfonamide | 3.59 mmol, 1.05 g | C(C)N(S(=O)(=O)C=1C=NC(=CC1)NN)C1=CC=CC=C1 | C13H16N4O2S
solvent | MeOH | 8 mL | CO | CH4O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 6-(4-benzyl-5-oxo-3-trifluoromethyl-2,5-dihydro-1H-pyrazol-1-yl)-N-ethyl-N-phenylpyridine-3-sulfonamide | 224 mg, Yield=12% | C(C1=CC=CC=C1)C1=C(NN(C1=O)C1=CC=C(C=N1)S(=O)(=O)N(C1=CC=CC=C1)CC)C(F)(F)F | C24H21F3N4O3S
